US06506901B2
Step I: [3-Fluoro-4-[[[[[4-[[4-[[[(R)-2-hydroxy-2-[4-hydroxy-3-[(methylsulfonyl)-amino]phenyl]ethyl]amino]-methyl]-1-piperidinyl]sulfonyl]phenyl]amino]-carbonyl]amino]-methyl]phenoxy]acetic Acid, Methyl Ester
The title compound was prepared from N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide (0.128 g, 0.52 mmol), (4-{3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-ureidomethyl}-3-fluoro-phenoxy)-acetic acid methyl ester (0.5 mmol), glacial acetic acid (0.03 mL, 0.5 mmol) and sodium cyanoborohydride (0.031 g, 0.5 mmol) according to the general procedure used for example 84 (Step E) to give the final product (0.21 g).

reactant | N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide | 0.52 mmol, 0.128 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | (4-{3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-ureidomethyl}-3-fluoro-phenoxy)-acetic acid methyl ester | 0.5 mmol | COC(COC1=CC(=C(C=C1)CNC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C=O)F)=O | C23H26FN3O7S
reactant | acetic acid | 0.5 mmol, 0.03 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.5 mmol, 0.031 g | C(#N)[BH3-].[Na+]
product | [3-Fluoro-4-[[[[[4-[[4-[[[(R)-2-hydroxy-2-[4-hydroxy-3-[(methylsulfonyl)-amino]phenyl]ethyl]amino]-methyl]-1-piperidinyl]sulfonyl]phenyl]amino]-carbonyl]amino]-methyl]phenoxy]acetic Acid, Methyl Ester | 0.21 g | FC=1C=C(OCC(=O)OC)C=CC1CNC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C32H40FN5O10S2
